US05939439
Methyl 4-iodobenzoate (5 g, 19.07 mmol) was suspended in THF (100 mL). LiBH4 (40 mmol) was added slowly, via syringe. Reaction mixture was heated to 60° for 4 days. 1N HCl was added slowly. Reaction mixture was stirred for 1/2 hour then was extracted 3 times with EtOAc. The organic layers were combined, washed with saturated NaHCO3, brine, dried (MgSO4), filtered and concentrated to give 4-iodobenzyl alcohol as a white solid.

reactant | Methyl 4-iodobenzoate | 19.07 mmol, 5 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | LiBH4 | 40 mmol | [Li+].[BH4-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-iodobenzyl alcohol | IC1=CC=C(CO)C=C1 | C7H7IO
